US06939871B2
2-Methyl-5-{2-[4-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-piperidin-1-yl]-ethoxy}-quinoline-7-carbonitrile (E152)
A mixture of 6-{1-[2-(7-Iodo-2-methyl-quinolin-5-yloxy)-ethyl]-piperidin-4-ylmethyl}-4H-benzo[1,4]oxazin-3-one (155 mg, 0.28 mmol) and copper (I) cyanide (50 mg, 0.56 mmol) in N-methylpyrrolidinione (2 mL) was stirred at 90° C. for 18 hrs. Upon cooling to room temperature the reaction mixture was partitioned between dichloromethane (5 mL) and ammonia (0.880, 5 mL). The organic layer was separated and applied directly to a 10 g pre-packed silica column eluting with 0-20% methanol in ethyl acetate to afford the title compound as a yellow oil (30 mg, 23%).

reactant | 6-{1-[2-(7-Iodo-2-methyl-quinolin-5-yloxy)-ethyl]-piperidin-4-ylmethyl}-4H-benzo[1,4]oxazin-3-one | 0.28 mmol, 155 mg | IC1=CC(=C2C=CC(=NC2=C1)C)OCCN1CCC(CC1)CC=1C=CC2=C(NC(CO2)=O)C1 | C26H28IN3O3
reactant | copper (I) cyanide | 0.56 mmol, 50 mg | [Cu]C#N
product | 2-Methyl-5-{2-[4-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-piperidin-1-yl]-ethoxy}-quinoline-7-carbonitrile | 30 mg, 23% | CC1=NC2=CC(=CC(=C2C=C1)OCCN1CCC(CC1)CC=1C=CC2=C(NC(CO2)=O)C1)C#N | C27H28N4O3
